US07531663B2
0.283 g (6.75 mmol) of lithium hydroxide monohydrate and 30 cm3 of water are added at 22° C. to 0.68 g (2.25 mmol) of 3-methoxycarbonyl-1-(quinol-6-yl)-1H-indole dissolved in 30 cm3 of tetrahydrofuran. After stirring at the reflux point of the solvent for 31.5 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 15 cm3 of water and then triturated with 6 cm3 of N hydrochloric acid. After filtering off and drying the solid residue under reduced pressure (2.7 kPa) at 40° C., 0.69 g of 3-carboxy-1-(quinol-6-yl)-1H-indole is obtained in the form of a beige-coloured solid. Mass spectrum (DCI): m/e 289 (M+H)+, m/e 245.

reactant | lithium hydroxide monohydrate | 6.75 mmol, 0.283 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-1-(quinol-6-yl)-1H-indole | 2.25 mmol | COC(=O)C1=CN(C2=CC=CC=C12)C=1C=C2C=CC=NC2=CC1 | C19H14N2O2
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
solvent | water | 15 cm3 | O | H2O
solvent | water | 30 cm3 | O | H2O
product | 3-carboxy-1-(quinol-6-yl)-1H-indole | 0.69 g | C(=O)(O)C1=CN(C2=CC=CC=C12)C=1C=C2C=CC=NC2=CC1 | C18H12N2O2
